US08455496B2
Preparation of Intermediate Ethyl 4-(2-(ethyl(methyl)carbamoyl)pyrimidin-5-yloxy)-2-methylbenzofuran-6-carboxylate (I-5a)
The flask was charged with 5-bromo-N-ethyl-N-methylpyrimidine-2-carboxamide (SM-3: 615 mg, 2.5 mmol), ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate (I-1c: 378 mg, 1.7 mmol), Cs2CO3 (1.15 g, 3.5 mmol), 1,10-phenanthroline (30.3 mg, 0.17 mmol), copper iodide (16 mg, 0.08 mmol) and dimethylformamide (17 mL). The reaction mixture was degassed with N2 for 5 minutes and then heated to 90° C. for 16 hours under a N2 atmosphere. The reaction mixture was diluted with ethylacetate (250 mL), washed with water (3×100 mL), dried (MgSO4) and concentrated. The crude material was purified by a biotage 50 g silica gel column (20%-100% EtOAc in Hep) to afford the title compound ethyl 4-(2-(ethyl(methyl)carbamoyl)pyrimidin-5-yloxy)-2-methylbenzofuran-6-carboxylate (I-5a: 180 mg, 28%) as a yellow solid.

reactant | 5-bromo-N-ethyl-N-methylpyrimidine-2-carboxamide | 2.5 mmol, 615 mg | BrC=1C=NC(=NC1)C(=O)N(C)CC | C8H10BrN3O
reactant | ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate | 1.7 mmol, 378 mg | OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C12H12O4
reactant | Cs2CO3 | 3.5 mmol, 1.15 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 0.17 mmol, 30.3 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | copper iodide | 0.08 mmol, 16 mg | [Cu](I)I
solvent | dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
product | ethyl 4-(2-(ethyl(methyl)carbamoyl)pyrimidin-5-yloxy)-2-methylbenzofuran-6-carboxylate | 180 mg, 28% | C(C)N(C(=O)C1=NC=C(C=N1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC)C | C20H21N3O5
